US05849911
Step (1) 4-(Pyridin-2-yl)-benzoic acid methyl ester:
24.0 g (150 mmol) of 4-cyanobenzoic acid methyl ester (Fluka, Buchs, Switzerland) in 150 ml of toluene are placed under an acetylene atmosphere in an autoclave and 0.30 g (1.6 mmol) of cobaltocene (=dicyclopentadienylcobalt; Aldrich, Milwaukee, USA) is added. The mixture is then subjected to an acetylene pressure of 15 atm, heated at 180° C. and stirred for 12 hours. After cooling and release of the pressure, 9.5 g of active carbon are added to the black suspension; the mixture is diluted with 250 ml of toluene, stirred for 30 min, filtered and concentrated by evaporation. Crystallisation from warm ether by the addition of hexane yields the title compound: m.p. 96° C.; TLC (hexane/ethyl acetate 4:1): Rf =0.37; FAB MS (M+H)+ =214. Further product can be obtained from the mother liquor by column chromatography (SiO2, hexane/ethyl acetate 19:1→4:1).

reactant | 4-cyanobenzoic acid methyl ester | 150 mmol, 24.0 g | COC(C1=CC=C(C=C1)C#N)=O | C9H7NO2
reactant | acetylene | C#C | C2H2
reactant | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
reactant | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
catalyst | cobaltocene | 1.6 mmol, 0.30 g | [CH-]1C=CC=C1.[CH-]1C=CC=C1.[Co+2]
product | 4-(Pyridin-2-yl)-benzoic acid methyl ester | COC(C1=CC=C(C=C1)C1=NC=CC=C1)=O | C13H11NO2
